US06713474B2
4-[4-Amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-ylphenol (0.49 g), 2-fluoro-6-(3-imidazol-1-yl)propylamino benzonitrile, potassium carbonate (0.45 g) and dimethylformamide were reacted in a similar manner to Example 17 to give 2-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]-6-(3-imidazol-1-yl)propylaminobenzonitrile, m.p.110° C. (glassy foam).

reactant | 4-Amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-ylphenol | 0.49 g | NC=1C2=C(N=CN1)N(C=C2C2=C(C=CC=C2)O)C2COCC2 | C16H16N4O2
reactant | 2-fluoro-6-(3-imidazol-1-yl)propylamino benzonitrile | FC1=C(C#N)C(=CC=C1)NCCCN1C=NC=C1 | C13H13FN4
reactant | potassium carbonate | 0.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]-6-(3-imidazol-1-yl)propylaminobenzonitrile | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=C(C#N)C(=CC=C1)NCCCN1C=NC=C1)C=C2)C2COCC2 | C29H28N8O2
